US07202257B2
N-methyl piperazine and 1-bromo-2-chloroethane are reacted using the procedure for Example OO to afford 1-(2-chloroethyl)-4-methylpiperazine hydrochloride.

reactant | N-methyl piperazine | CN1CCNCC1 | C5H12N2
reactant | 1-bromo-2-chloroethane | BrCCCl | C2H4BrCl
product | 1-(2-chloroethyl)-4-methylpiperazine hydrochloride | Cl.ClCCN1CCN(CC1)C | InChI=1S/C7H15ClN2.ClH/c1-9-4-6-10(3-2-8)7-5-9;/h2-7H2,1H3;1H
